US09029531B2
Step B: methyl 2-(5-fluoropyridin-2-yl)acetate
The solution of dimethyl 2-(5-fluoropyridin-2-yl)malonate (400 mg 1.76 mmol), NaCl (109.2 mg, 1.87 mmol) and H2O (56.3 g, 3.13 mmol) in DMSO (3 mL) was stirred at 130 degree for 6 h. After cooling to room temperature, the reaction mixture was diluted with H2O and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a standard method to get desired product. LC-MS: m/z (M+H)=170.1

reactant | dimethyl 2-(5-fluoropyridin-2-yl)malonate | 1.76 mmol, 400 mg | FC=1C=CC(=NC1)C(C(=O)OC)C(=O)OC | C10H10FNO4
reactant | NaCl | 1.87 mmol, 109.2 mg | [Na+].[Cl-]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
solvent | H2O | 3.13 mmol, 56.3 g | O | H2O
product | methyl 2-(5-fluoropyridin-2-yl)acetate | FC=1C=CC(=NC1)CC(=O)OC | C8H8FNO2
